US05157041
A solution of 270 mg of N-[3(S)-(benzyloxyformamido)-4-(4-fluorophenyl)-2(R)-hydroxybutyl]-L-proline tert.butyl ester in 50 ml of ethanol was hydrogenated over 30 mg of 10% palladium-on-carbon for 2 hours. The catalyst was removed by filtration and the filtrate was evaporated to give an oil which was coupled with 158 mg of N-(benzyloxycarbonyl)-L-asparagine in a manner analogous to that described in Example 1. The crude product was chromatographed on silica gel using 10% methanol in dichloromethane for the elution. There were obtained 120 mg of N-[3(S)-[[N-(benzyloxycarbonyl)-L-asparaginyl]amino]-4-(4-fluorophenyl)-2(R)-hydroxybutyl]-L-proline tert.butyl ester as a white solid of melting point 163°-164° C.

reactant | N-[3(S)-(benzyloxyformamido)-4-(4-fluorophenyl)-2(R)-hydroxybutyl]-L-proline tert.butyl ester | 270 mg | C(C)(C)(C)OC([C@H]1N(CCC1)C[C@H]([C@H](CC1=CC=C(C=C1)F)NC(=O)OCC1=CC=CC=C1)O)=O | C27H35FN2O5
reactant | N-(benzyloxycarbonyl)-L-asparagine | 158 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(N)=O)C(=O)O | C12H14N2O5
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 30 mg | [Pd] | Pd
product | N-[3(S)-[[N-(benzyloxycarbonyl)-L-asparaginyl]amino]-4-(4-fluorophenyl)-2(R)-hydroxybutyl]-L-proline tert.butyl ester | 120 mg | C(C)(C)(C)OC([C@H]1N(CCC1)C[C@H]([C@H](CC1=CC=C(C=C1)F)NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(N)=O)=O)O)=O | C31H41FN4O7
